US07399775B2
2-[1-[(4-Chlorophenyl)sulfonyl]cyclopentyl]-1,4-difluorobenzene
In toluene (10 ml) was dissolved 5-[(4-chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)-1-pentanol (100 mg, 0.267 mmol). After addition of cyanomethylenetri-n-butylphosphorane (130 mg, 0.539 mmol), the mixture was heated under reflux for 2 days under an argon atmosphere. The reaction mixture was allowed to cool down and then, added with cyanomethylenetri-n-butylphosphorane (130 mg, 0.539 mmol). The mixture was heated under reflux for 3 days under an argon atmosphere. The reaction mixture was allowed to cool down and then concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=15:1) to yield a white solid. The resulting white solid was washed with hexane, whereby the title compound (35 mg, 37%) was obtained as a white powder.

reactant | 5-[(4-chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)-1-pentanol | 0.267 mmol, 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCO)C1=C(C=CC(=C1)F)F | C17H17ClF2O3S
reactant | cyanomethylenetri-n-butylphosphorane | 0.539 mmol, 130 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
reactant | cyanomethylenetri-n-butylphosphorane | 0.539 mmol, 130 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[1-[(4-Chlorophenyl)sulfonyl]cyclopentyl]-1,4-difluorobenzene | ClC1=CC=C(C=C1)S(=O)(=O)C1(CCCC1)C1=C(C=CC(=C1)F)F | C17H15ClF2O2S
